US04940710
A mixture of 496 mg of 3-dimethylamino-1-(2-pyrazinyl)-2-propen-1-one and 10 ml of hydrazine hydrate was heated at 90°-100° C. for 16 hours, then allowed to cool, giving 210 mg of 1H-pyrazol-3-yl-pyrazine.

reactant | 3-dimethylamino-1-(2-pyrazinyl)-2-propen-1-one | 496 mg | CN(C=CC(=O)C1=NC=CN=C1)C | C9H11N3O
reactant | hydrazine hydrate | 10 ml | O.NN
product | 1H-pyrazol-3-yl-pyrazine | 210 mg | N1N=C(C=C1)C1=NC=CN=C1 | C7H6N4
